US07550474B2
a. (3-Chlorophenyl)difluoroacetic Acid Ethyl Ester
To a mixture of copper bronze (2.93 g, 46.1 mmol) in DMSO (5.0 mL) was added ethyl bromodifluoroacetate (3.2 mL, 25 mmol) under argon at room temperature (see Sato, K. et al; Chem. Pharm. Bull. 47:1013-1016, 1999). After stirring for 1 h, 1-chloro-3-iodobenzene (2.57 mL, 20.8 mmol) was added under argon at room temperature. After shaking for 3 days, the mixture was diluted with saturated NH4Cl (50 mL) and extracted with ether (25 mL). The biphasic mixture was filtered through a pad of Celite, and the filter cake was washed with ether (25 mL). The organic layer was separated from the filtrate, and the aqueous layer was extracted with ether (25 mL). The combined organic layers were washed with saturated NH4Cl (2×15 mL) and brine (15 mL), dried (Na2SO4), and concentrated to afford the title compound (4.77 g, 97%) as a clear yellow oil. 1H NMR (300 MHz, CDCl3) δ 7.63-7.59 (m, 1H), 7.53-7.45 (m, 2H), 7.43-7.36 (m, 1H), 4.31 (q, J=7.2 Hz, 2H), 1.32 (t, J=7.2 Hz, 3H).

reactant | ethyl bromodifluoroacetate | 25 mmol, 3.2 mL | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | 1-chloro-3-iodobenzene | 20.8 mmol, 2.57 mL | ClC1=CC(=CC=C1)I | C6H4ClI
solvent | DMSO | 5.0 mL | CS(=O)C | C2H6OS
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
catalyst | copper bronze | 46.1 mmol, 2.93 g | [Cu] | Cu
product | (3-Chlorophenyl)difluoroacetic Acid Ethyl Ester | 4.77 g, 97% | C(C)OC(C(F)(F)C1=CC(=CC=C1)Cl)=O | C10H9ClF2O2
